US04945092
10 g (30 mmol) of N-[4-(p-fluorophenyl)-2-oxopyrrolidin-1-ylacetoxy]-succinimide and 3.0 g (30 mmol) of piperazin-2-one (ketopiperazine) are stirred at room temperature in 100 ml of dimethylformamide for 16 hours. The whole is concentrated to dryness by evaporation at 70° under reduced pressure, extracted at boiling temperature with trichloromethane, allowed to cool, filtered with suction and allowed to dry in the air. 1-[4-(p-fluorophenyl)-2-oxopyrrolidin-1-ylacetyl]-3-oxopiperazine having a melting point of 200°-203° is obtained.

reactant | N-[4-(p-fluorophenyl)-2-oxopyrrolidin-1-ylacetoxy]-succinimide | 30 mmol, 10 g | FC1=CC=C(C=C1)C1CC(N(C1)CC(=O)ON1C(CCC1=O)=O)=O | C16H15FN2O5
reactant | piperazin-2-one | 30 mmol, 3.0 g | N1C(CNCC1)=O | C4H8N2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[4-(p-fluorophenyl)-2-oxopyrrolidin-1-ylacetyl]-3-oxopiperazine | FC1=CC=C(C=C1)C1CC(N(C1)CC(=O)N1CC(NCC1)=O)=O | C16H18FN3O3
